US06281367B1
(1S,2R)-tert-butyl N-[1-benzyl-2-hydroxy-3-(isobutylamino)propyl]carbamate (127.77 g, 379.7 mmol) was heated in toluene (888 ml) to 80° C. and triethylamine (42.6 g, 417.8 mmol) added. The mixture was heated to 90° C. and a solution of p-nitrobenzene sulphonyl chloride (94.3 g, 425.4 mmol) in toluene (250 ml) was added over 30 minutes then stirred for a further 2 hours. The resultant solution of the nosylated intermediate {(1S,2R)-tert-butyl N-[1-benzyl-2-hydroxy-3-(N-isobutyl- 4-nitrobenzenesulphonamido)propyl]carbamate } was then cooled to 80° C. The solution was maintained at approximately 80° C., and concentrated hydrochloric acid (31.4 ml, 376.8 mmol) was added over 20 minutes. The mixture was heated to reflux (approx 86° C.) and maintained at this temperature for an hour then a further quantity of concentrated hydrochloric acid (26.4 ml, 316.8 mmol) was added. Solvent (water and toluene mixture) was removed from the reaction mixture by azeotropic distillation (total volume of solvent removed approx 600 ml), and the resultant suspension was cooled to 70-75° C. Denatured ethanol (600 ml) was added, and the solution was cooled to 20° C. The mixture was further cooled to approximately −10° C. and the precipitate formed was isolated by filtration, washed with denatured ethanol (50 ml) and dried at approximately 50° C., under vacuum, for approximately 12 hours, to give (2R,3S)-N-(3-amino-2-hydroxy-4-phenylbutyl)-N-isobutyl-4-nitrobenzene sulphonamide hydrochloride (160 g; 73% of theory yield corrected for assay). NMR: 1H NMR (300Mhz, dmso-d6): 8.37(2H, d, J=9 Hz), 8.16(NH3+s), 8.06(2H, d, J=9 Hz), 7.31(5H, m), 5.65(1H, d, J=5 Hz), 3.95(1H, m), 3.39(2H, m), 2.95(5H, m), 1.90(1H, m), 0.77(6H, dd, J=21 Hz and 6 Hz).

reactant | (1S,2R)-tert-butyl N-[1-benzyl-2-hydroxy-3-(isobutylamino)propyl]carbamate | 379.7 mmol, 127.77 g | C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC(C)C)O)NC(OC(C)(C)C)=O | C19H32N2O3
reactant | triethylamine | 417.8 mmol, 42.6 g | C(C)N(CC)CC | C6H15N
reactant | p-nitrobenzene sulphonyl chloride | 425.4 mmol, 94.3 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | (1S,2R)-tert-butyl N-[1-benzyl-2-hydroxy-3-(N-isobutyl- 4-nitrobenzenesulphonamido)propyl]carbamate | C(C1=CC=CC=C1)[C@@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)O)NC(OC(C)(C)C)=O | C25H35N3O7S
reactant | hydrochloric acid | 376.8 mmol, 31.4 ml | Cl | ClH
reactant | hydrochloric acid | 316.8 mmol, 26.4 ml | Cl | ClH
solvent | toluene | 888 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,3S)-N-(3-amino-2-hydroxy-4-phenylbutyl)-N-isobutyl-4-nitrobenzene sulphonamide hydrochloride | 160 g, 73% | Cl.N[C@H]([C@@H](CN(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CC(C)C)O)CC1=CC=CC=C1 | InChI=1S/C20H27N3O5S.ClH/c1-15(2)13-22(14-20(24)19(21)12-16-6-4-3-5-7-16)29(27,28)18-10-8-17(9-11-18)23(25)26;/h3-11,15,19-20,24H,12-14,21H2,1-2H3;1H/t19-,20+;/m0./s1
